* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1739.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N003 N001 +V -V N002 +V 0 LT1739
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 10K
R2 N001 0 1K
V3 N003 0 sine(0 .1 1Meg)
.tran 3u
.lib LT1739.sub
.backanno
.end
