* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1764.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 10µ Rser=100m
Rload OUT 0 500
X§U1 IN IN 0 OUT OUT LT1764
.tran 1
.lib LT1764.lib
.backanno
.end
