* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1022A.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 10K
R2 N001 IN 10K
V3 IN 0 SINE(0 1 10K)
D1 N002 N004 1N4148
D2 N004 N005 1N4148
R3 N005 N001 10K
C1 N002 N001 10p
R4 N003 N002 10K
R5 OUT N003 10K
C2 OUT N003 10p
X§U1 0 N001 +V -V N004 LT1022
X§U2 N005 N003 +V -V OUT LT1022
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m
* Wide Bandwidth Absolute Value Circuit
.lib LTC.lib
.backanno
.end
