* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1178A.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 N002 N001 5K
R2 N001 0 5K
V3 N003 0 SINE(1.25 .1 1K)
X§U1 N003 N001 +V 0 N002 LT1178
.tran 3m
.lib LTC.lib
.backanno
.end
