* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT118A.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 5K
R2 N001 0 5K
V3 N003 0 SINE(0 1 1Meg)
X§U1 N003 N001 +V -V N002 LT118A
.tran 3u
.lib LTC.lib
.backanno
.end
