* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1308A.asc
* Generated by LTspice 24.1.9 for Windows.
C3 N002 0 680p
V1 IN 0 1.5
R1 OUT N004 1Meg
R2 N004 0 324K
R3 N003 N002 100K
L1 IN N001 10µ
D1 N001 OUT MBRS140
C2 OUT 0 33µ
X§U1 N003 N004 IN 0 N001 IN N005 N006 LT1308A
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1308A.sub
.backanno
.end
