* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1012D.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N002 N001 10Meg
R2 N001 IN- 100Meg
V3 IN- IN+ SINE(0 100m 10)
R3 0 N002 100
R4 N002 OUT 100K
R5 N003 IN+ 100Meg
R6 N003 0 10Meg
V4 IN+ 0 SINE(0 100 1)
X§U1 N003 N001 +V -V OUT LT1012
.tran 3
* Instrumentation Amplifier with ±100V Common Mode Range
.lib LTC.lib
.backanno
.end
