* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1076HV.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N004 0 70K
L1 N001 OUT 75µ
D1 0 N001 MBRS340
V1 IN 0 25
R2 OUT N003 2.74K
R3 N003 0 2.21K
C1 N006 N005 .033µ
C2 OUT 0 400µ Rser=.1
R4 0 N006 1.5K
X§U1 IN N001 N004 0 N003 N005 N002 LT1076
Rload OUT 0 5
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 3m startup
.lib LT1076.sub
.backanno
.end
