* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1170HV.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
C1 N004 0 1µ
R1 N003 N004 1K
R2 N002 0 1.24K
R3 OUT N002 10.7K
D1 N001 OUT MBRS360
L1 IN N001 150µ Rser=0.02 Rpar=5000
C2 OUT 0 500µ Rser=0.05
X§U1 N003 N002 0 N001 IN LT1170
Rload OUT 0 12
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 15m startup
.lib LT1170.sub
.backanno
.end
