* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1467L.asc
* Generated by LTspice 24.1.9 for Windows.
V1 V+ 0 3.3
R1 N001 IN 29.4K
V2 IN 0 SINE(1.65 1 10k)
C1 N002 N001 10n
R2 N003 N002 8.66K
C2 N004 N003 10n
R3 N005 N004 11.8K
C3 N006 N005 10n
R4 N007 N006 21.5K
C4 OUT N007 10n
R5 N009 V+ 10K
R6 N009 0 10K
R7 OUT N008 11.8K
X§U3 N004 N001 N002 V+ 0 N009 N003 N004 N009 N007 OUT N008 N005 N006 LT1467L
* 4-Pole 1KHz, 3.3V Single Supply, State Variable Filter
.tran 5m
.lib LT1467L.sub
.backanno
.end
